Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Lytic Skull Lesions, Metabolic Encephalopathy
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old Male who presents with confusion and lytic lesions 
from ___. At the OSH he was admitted due to 
progressive confusion, visual hallucinations and bizarre 
behavior. He had several weeks of URI symptoms before this, 
thought to be bronchitis and treated with amoxicillin. He has 
been afebrile since presentation to ___. The workup at 
___ had a negative UA, Chest xray suggesting right 
suprahilar infiltrate vs mass. Chest CT shows question of 
post-obstructive pneumonia; he was started on Moxifloxacin on 
___. A head CT to work up the confusion demonstrated a bony, 
lytic lesion in the calvarium with extradural soft tissue 
component (palpable on exam) which radiologists felt was very 
suspicious for a metastatic lesion. The patient maintains the 
lesion has been there "since ___ when he was hit on the head 
by a flagpole.

His delirium reportedly improved, but the hospitalist reported 
that his sleep wake cycle is still "off." The family requested 
transfer to ___ for additional workup of lesion, although 
unclear why this was for inpatient workup. Of note, during his 
admission he was transfused 2 units for Hct 26 (in ___ Hct 
was 28) with appropriate hct bump. Guiaiac negative.  

Upon arrival to the ___ Medicine floor he reports ___ year of 
worsening dyspnea on exertion. No ___ edema. No LOA 
or weight loss.
 
Past Medical History:
Coronary artery disease -s/p OM and RCA stents ___ at ___ 
___
Right Bundle Branch Block
Atrial flutter since ___, s/p ablation ___  
Benign Hypertension
Hyperlipidemia
COPD  
GERD  
Peptic Ulcer Disease
Tonsillectomy ___ years ago  
Glaucoma
 
Social History:
___
Family History:
Brother died at ___ of pancreatic cancer. Father died at ___ of 
prostate cancer. One sister alive and healthy at ___, other 
sister deceased (unclear of cause of death). Hi 2 biological 
children died at birth. No family history of lung cancer
 
Physical Exam:
ROS:
GEN: - fevers, - Chills, - Weight Loss
EYES: - Photophobia, - Visual Changes
HEENT: - Oral/Gum bleeding
CARDIAC: - Chest Pain, - Palpitations, - Edema
GI: - Nausea, - Vomitting, - Diarhea, - Abdominal Pain, - 
Constipation, - Hematochezia
PULM: - Dyspnea, - Cough, - Hemoptysis
HEME: - Bleeding, - Lymphadenopathy
GU: - Dysuria, - hematuria, - Incontinence
SKIN: - Rash
ENDO: - Heat/Cold Intolerance
MSK: - Myalgia, - Arthralgia, - Back Pain
NEURO: - Numbness, - Weakness, - Vertigo, - Headache, + 
Encephalopathy
 
ADMISSION PHYSICAL EXAM:
VSS: 98.2, 138/80, 64, 20, 93%
GEN: NAD
Pain: ___
HEENT: EOMI, MMM, - OP Lesions, soft tissue mass occipital 
region
PUL: feint basilar crackles
COR: RRR, S1/S2, - MRG
ABD: NT/ND, +BS, - CVAT
EXT: - CCE
NEURO: CAOx3, Non-Focal

DISCHARGE PHYSICAL EXAM:
Vitals: T98.4  BP: 135/55 P: 72 RR: 20 O2: 91%RA  
General: Alert, oriented x3, appropriate, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, no cervical LAD  
Lungs: CTAB, no rhonchi, rales, wheezes
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, no edema  
Neuro: non-focal
 
Pertinent Results:
ADMISSION LABS:
___ 06:40AM BLOOD WBC-12.4* RBC-4.96 Hgb-11.0* Hct-37.2* 
MCV-75* MCH-22.2* MCHC-29.6* RDW-18.3* Plt ___
___ 09:45PM BLOOD WBC-12.1* RBC-4.84 Hgb-10.6* Hct-36.0* 
MCV-74* MCH-21.9* MCHC-29.5* RDW-18.2* Plt ___
___ 06:40AM BLOOD Neuts-74* Bands-4 Lymphs-6* Monos-9 Eos-3 
Baso-0 ___ Myelos-2* Promyel-1* Plasma-1*
___ 09:45PM BLOOD Neuts-82* Bands-2 Lymphs-13* Monos-3 
Eos-0 Baso-0 ___ Myelos-0 NRBC-1*
___ 06:40AM BLOOD Hypochr-1+ Anisocy-1+ Poiklo-1+ 
Macrocy-NORMAL Microcy-1+ Polychr-NORMAL Ovalocy-OCCASIONAL 
Target-OCCASIONAL Envelop-OCCASIONAL
___ 09:45PM BLOOD ___ PTT-29.3 ___
___ 06:40AM BLOOD Glucose-100 UreaN-21* Creat-1.1 Na-136 
K-4.5 Cl-96 HCO3-29 AnGap-16
___ 09:45PM BLOOD Glucose-138* UreaN-23* Creat-1.2 Na-138 
K-4.3 Cl-99 HCO3-35* AnGap-8
___ 06:40AM BLOOD CK(CPK)-115
___ 09:45PM BLOOD ALT-41* AST-29 CK(CPK)-89 AlkPhos-81 
TotBili-0.8
___ 06:40AM BLOOD CK-MB-3 cTropnT-<0.01
___ 09:45PM BLOOD CK-MB-3
___ 09:45PM BLOOD TotProt-5.8* Albumin-3.3* Globuln-2.5 
Calcium-8.4 Phos-3.5 Mg-2.2 Iron-30*
___ 09:45PM BLOOD calTIBC-215* Ferritn-580* TRF-165*
___ 09:45PM BLOOD PEP-NO SPECIFI
___ 06:40AM BLOOD Digoxin-0.9
___ 01:58AM URINE Color-Yellow Appear-Clear Sp ___
___ 01:58AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-6.0 Leuks-NEG
___ 01:58AM URINE Hours-RANDOM TotProt-7

MICRO:
___ 1:58 am URINE CULTURE: STAPHYLOCOCCUS, COAGULASE 
NEGATIVE.    10,000-100,000 ORGANISMS/ML.. 

STUDIES:
___ CT Head w/o contrast ___ second read at 
___: There are no previous studies available for comparison, 
and this examination is interpreted in tandem with the enhanced 
MR examination.  Corresponding to the findings on that 
examination is an extensive lytic, destructive process involving 
the right paramedian occipital bone with transgression of both 
its inner and outer tables and residual bony spicules with a 
"permeative" appearance. This process measures up to 3.5 cm in 
overall transverse dimension (3:18). Better-demonstrated on the 
accompanying examination is the uniform, slightly 
hyperattenuating (measuring up to 43 ___ soft tissue component, 
extending intracranially in the right paramedian extradural 
space overlying that parieto-occipital pole. This process also 
encases and appears to expand the subjacent segment of the 
superior sagittal sinus, significantly better- demonstrated on 
the MR. ___ process extends superficially, where it is 
apparently confined by the galeal periosteum, with no definite 
extension into the immediately overlying subcutaneous fat. Other 
than the residual bone, there is no definite abnormal 
calcification associated with any of the components of this 
process. No similar lesion is identified elsewhere in the 
calvaria or in the skull base. There is no intra- or extra-axial 
hemorrhage and the midline structures are in the midline. As on 
the MR, there is moderately severe global atrophy with evidence 
of the sequelae of chronic small vessel ischemic disease in 
periventricular white matter. There is no finding to suggest 
acute vascular territorial infarction. Again demonstrated is 
evidence of previous ocular lens surgery, with no other orbital 
abnormality. 
  
IMPRESSION: 
1. Markedly abnormal appearance to the right paramedian 
occipital bone which demonstrates an extensive lytic, 
destructive process with both intra- and extracranial soft 
tissue component. The intracranial portion extends to involve 
the extradural space overlying the right occipital pole, and to 
encase and likely involve the underlying superior sagittal 
sinus. This component is better- evaluated on the current 
enhanced MR examination. 2. As on the MR study, there is no 
definite evidence of thrombosis of the principal dural venous 
sinuses, elsewhere. 3. Moderately severe global atrophy and 
sequelae of chronic small vessel 
ischemic disease. 

___ CT Chest w/ CONTRAST ___ second read by 
___: Right upper lobe opacity with consolidation and 
satellite peribronchial nodules, accompanied by a right pleural 
effusion, with the morphology that is highly suggestive of 
infectious disease. This is supported by smaller infectious foci 
in the remaining lung. Subtle, mainly perifissural scars, as 
described above. Moderate coronary calcifications and aortic 
tortuosity. Slightly increased number of mediastinal lymph 
nodes, but no pathologic lymph node enlargement.  No evidence of 
airway obstruction. 
 
___ MRI with and w/o Contrast (___): 1. As on the prompting 
OSH NECT, there is a markedly abnormal appearance to the right 
paramedian occipital bone, with an extensive soft tissue process 
which has replaced the diploic marrow space with both extradural 
intracranial and, likely, subperiosteal extracranial 
involvement. Of note, all components demonstrate slow diffusion. 
2. The process encases and infiltrates the subjacent segment of 
the superior sagittal sinus, which appears expanded and invaded 
by the enhancing soft tissue. The remainder of this as well as 
the remaining principal dural venous sinuses appear patent, with 
no cerebral edema or other evidence of venous hypertension. 3. 
No other calvarial lesion identified. 4. Moderately severe 
global, particularly central, atrophy and sequelae of chronic 
small vessel ischemic disease.
 
COMMENT: The constellation of findings, taken in concert with 
the extensive
lytic appearance on CT, is most concerning for a hypercellular 
neoplastic
process, such as plasmacytoma/multiple myeloma or primary 
lymphoma of bone.
The overall appearance would be somewhat unusual for metastatic 
"solid" tumor. The sequela of remote trauma, akin to the 
so-called "growing fracture"(leptomeningeal cyst), occasionally 
seen after trauma in pediatric patients, would be most unusual 
with this appearance. 

DISCHARGE LABS:

___ 06:05AM BLOOD WBC-13.4* RBC-4.99 Hgb-10.9* Hct-36.0* 
MCV-72* MCH-21.9* MCHC-30.3* RDW-18.0* Plt ___
___ 06:05AM BLOOD ___ PTT-29.4 ___
___ 06:05AM BLOOD Glucose-102* UreaN-20 Creat-1.0 Na-139 
K-4.3 Cl-99 HCO3-32 AnGap-12
___ 06:05AM BLOOD ALT-31 AST-29 LD(LDH)-257* AlkPhos-76 
TotBili-0.9
___ 06:40AM BLOOD PSA-2.___. Lytic Skull Lesion- Pt was transferred from OSH primarily for 
w/u of incidental finding of lytic lesion in posterior calvarium 
w/ superimposed soft tissue mass. Pt maintained he has had the 
soft tissue prominence in that area since ___ when he was hit 
on the head by a flagpole. OSH films were reviewed by ___ 
radiologists who were also concerned about possible malignancy, 
though felt that MRI would be the optimal study to further 
characterize. Patient was seen by the neurosurgery service who 
did not feel there was an urgent need to biopsy and recommended 
MRI and outpatient follow up. MRI was performed and showed 
markedly abnormal appearance to the right paramedian occipital 
bone, with an extensive soft tissue process which has replaced 
the diploic marrow space with both extradural intracranial and, 
likely, subperiosteal extracranial involvement. Of note, all 
components demonstrate slow diffusion, concerning for 
malignancy- particularly solitary plasmacytoma, multiple 
myeloma. Work up in house also included SPEP, UPEP which were 
negative and in the setting of normal renal function and calcium 
made myeloma seem unlikely. PSA was checked and wnl. CT Chest 
was reviewed and was negative for any masses or lymphadenopathy. 
Pt and family opted to follow up with neurosurgery closer to 
their home so they were given CDs of all studies and instructed 
to follow up with pt's PCP ___. Dr. ___ was 
contacted by telephone and informed of hospitalization and pt's 
desire to have NSG f/u closer to home, which he was amenable to 
arranging.

2. Metabolic Encephalopathy- Was likely secondary to an 
infectious process, specifically pt's pneumonia. By arrival in 
our facility, patient was alert and oriented x3, attentive, and 
completely appropriate. He was monitored for further delirium 
but did not show any signs of it and was discharged at his 
baseline. 

3. CAD Native Vessel- Was continued on home Beta-Blocker, 
Statin, ASA.

4. Benign Hypertension- Was continued on home metoprolol and 
lasix.

5. Atrial Flutter- S/p ablation. Patient no longer on 
dabigatran. Was in sinus with RBBB during this admission. Was 
continued on home regimen of metoprolol, digoxin, and 
dronedarone and remained in sinus rhythm. Digoxin level was 
checked and w/in therapeutic range.

6. Pulmonary Hypertension- Was continued on lasix.

7. Iron Deficiency Anemia- Has a h/o of thalassemia trait, but 
also with h/o iron deficiency and pt noted is not compliant w/ 
supplementation ___ constipation. Manual differential in house 
showed early cell forms (myelocytes, promyelocytes, plasma 
cells) that warrant further work up by hematology w/ potential 
bone marrow biopsy, particularly given known lytic lesion. This 
can be pursued as an outpatient. Pt's hct remained stable during 
hospitalization and he was discharged on iron, colace and senna. 
Iron studies showed iron of 30, TIBC 215, ferritin 580.

8. Pneumonia- Pt was started on moxifloxacin on ___ at OSH for 
CAP. There was initial concern there for post-obstructive 
pneumonia. CT chest was reviewed by ___ radiologists who did 
not feel there was any evidence of mass or post-obstructive 
pneumonia. He was continued on levofloxacin and discharged to 
complete a 7 day course of antibiotics. 

Full Code
 
Medications on Admission:
Home Medications: [confirmed with wife]  
Aspirin 81 mg daily  
Pradaxa 150 mg b.i.d. (no longer on this medication)  
Dronedarone 400mg BID  
Digoxin 0.125 mg daily  
Metoprolol tartrate 25 mg daily  
Furosemide 40 mg daily  
Simvastatin 40 mg daily  
Xalatan daily  
Potassium chloride 20 mEq daily  
Multivitamin  
Iron (not compliant)  
Vitamin D  
 
Transfer Medications: [per transfer summary]  
Aspirin 81 mg daily  
Dronedarone 400mg BID  
Digoxin 0.125 mg daily  
Metoprolol tartrate 25 mg daily  
Furosemide 40 mg daily  
Simvastatin 40 mg daily  
Xalatan 1 drop daily  
Potassium chloride 20 mEq daily  
Moxifloxacin 400mg PO daily (started ___  
Ferrous sulfate 650 mg daily
 
Discharge Medications:
1. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
2. dronedarone 400 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).  
3. digoxin 125 mcg Tablet Sig: One (1) Tablet PO once a day.  
4. metoprolol tartrate 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime).  
8. potassium chloride 10 mEq Tablet Extended Release Sig: Two 
(2) Tablet Extended Release PO once a day.  
9. multivitamin,tx-minerals     Tablet Sig: One (1) Tablet PO 
DAILY (Daily).  
10. cholecalciferol (vitamin D3) 400 unit Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
11. ferrous sulfate 300  mg (60 mg iron) Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).
Disp:*60 Capsule(s)* Refills:*2*
13. senna 8.6 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for constipation.
Disp:*30 Tablet(s)* Refills:*0*
14. levofloxacin 750 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*3 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Pneumonia
Lytic lesion of calvarium

Secondary:
HTN
COPD
Atrial fibrillation/flutter

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were transferred to the ___ 
for evaluation of a lesion on your skull and treatment of a 
pneumonia. You were seen by the neurosurgery service who 
recommended an MRI of your head which was done while you were in 
the hospital. It is very important that you follow up with a 
neurosurgeon for further evaluation of this lesion. Your primary 
care physician ___ help arrange this. You were treated with 
antibiotics for your pneumonia.

We made the following changes to your medications:
- please take LEVOFLOXACIN for your pneumonia- you will complete 
this medication after your dose on ___
- you may take colace and senna to help with your constipation

Please continue taking your other medications as you were 
previously and follow up with your primary care doctor as below. 
Dr. ___ will arrange for neurosurgery follow up for 
evaluation of your skull lesion.

It was a pleasure taking care of you at the ___. We wish you a 
speedy recovery.
 
Followup Instructions:
___